US07932272B2
2-Bromo-5-(2-methylpropenyl)-thiophene
(5-Bromothiophen-2-ylmethyl)phosphonic acid diethyl ester described in Preparation Example 142 (3.13 g, 10 mmol) was dissolved in tetrahydrofuran (20 mL), sodium hydride (0.40 g, 10 mmol, 60% in oil) was added to this solution under stirring at room temperature. The solution was stirred for 30 minutes at 60° C., then, acetone (1 g, 17.2 mmol) was added, and the solution was further stirred for 30 minutes. Water (100 mL) was added to the reaction solution, which was then extracted with hexane (50 mL), the organic layer was washed with water, dried over anhydrous magnesium sulfate, then, the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane), and the title compound (60 mg, 0.27 mmol, 2.7%) was obtained as a colorless oil.

reactant | (5-Bromothiophen-2-ylmethyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC=1SC(=CC1)Br | C9H14BrO3PS
reactant | sodium hydride | 10 mmol, 0.40 g | [H-].[Na+]
reactant | acetone | 17.2 mmol, 1 g | CC(=O)C | C3H6O
reactant | Water | 100 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Bromo-5-(2-methylpropenyl)-thiophene | 0.27 mmol, 60 mg, 2.7% | BrC=1SC(=CC1)C=C(C)C | C8H9BrS
